US04048314
1.4 G. of sodium azide (NaN3) in 6 ml. of water was added to a solution of 3.6 g. of 1-methyl-4-phenyl-3,4-epoxypiperidine in 20 ml. of dioxane and the resulting combined solution refluxed for 2 hours. A further portion of 1.4 g. of NaN3 in 6 ml. of water was then added and the reaction mixture refluxed overnight. Upon cooling 3.2 g. of crystals of the desired 1-methyl-4-phenyl-4-azido-3-hydroxypiperidine were obtained, which had a melting point of 170°-71° C.

reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | 1-methyl-4-phenyl-3,4-epoxypiperidine | CN1CC2C(CC1)(O2)C2=CC=CC=C2 | C12H15NO
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 1-methyl-4-phenyl-4-azido-3-hydroxypiperidine | CN1CC(C(CC1)(N=[N+]=[N-])C1=CC=CC=C1)O | C12H16N4O
